US03941803
In the manner given in Example 1, 5-(trifluoromethyl)-2-(5-methylimidazol-1-yl)benzophenone is heated in a bomb with paraformaldehyde in xylene to 140° C. to give 5-(trifluoromethyl)-2-[2-(hydroxymethyl)-5-methylimidazol-1-yl]benzophenone.

reactant | 5-(trifluoromethyl)-2-(5-methylimidazol-1-yl)benzophenone | FC(C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C=NC=C1C)(F)F | C18H13F3N2O
reactant | paraformaldehyde | C=O | CH2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5-(trifluoromethyl)-2-[2-(hydroxymethyl)-5-methylimidazol-1-yl]benzophenone | FC(C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NC=C1C)CO)(F)F | C19H15F3N2O2
